* Z:\home\ivica\Radio\NE602_Ham_Radio\NE602 Rx SSB PREAMP.asc
V2 N016 0 SINE(0 0.2 13.645Meg) AC 1e-6
XX1 N023 N024 0 N005 N015 N004 NC_01 VCC+5V sa612
C1 N016 N004 100n
XU1 N006 N013 Vcc -Vcc N008 LM741
V4 Vcc 0 12v
V5 0 -Vcc 12v
R4 N006 N005 1k
R5 N013 N015 1k
R6 N008 N013 1k
R7 N006 0 1k
C6 0 N015 1n
C7 N005 0 1n
C9 N009 N008 100n
C10 0 N024 1n
V3 VCC+5V 0 5v
C2 N018 Vin 100n
Q1 N019 N018 N025 0 2N3904
R3 N019 N018 330R
R8 Vcc N019 500R
C3 N020 N019 100n
R9 N025 0 330R
C4 N025 N027 6.8µ
R10 N027 0 22R
V1 Vin 0 SINE(0 200u 14.1Meg) AC 10u Rser=50R
R11 N019 N018 100k
Q2 N021 N020 N026 0 2N3904
R12 N021 N020 10k
R13 Vcc N021 1500R
C5 N022 N021 100n
R14 N026 0 470r
C8 N026 N028 6.8µ
R15 N028 0 470r
R16 N021 N020 100k
L1 N022 0 30µ
L2 N024 N023 30µ
Q3 N002 N001 N017 0 2N3904
R17 N002 N001 220k
R18 Vcc N002 1k
C12 N003 N002 10µ
R19 N017 0 510R
C13 N017 P001 47µ
Q4 Vcc N003 N014 0 2N3904
R20 Vcc N003 220k
R21 N014 0 470R
R22 N002 N001 100k
R23 N007 0 600R
C14 N007 N014 100n
R24 P001 0 100r
R2 N010 N009 22R
C11 N010 0 10n
R25 N011 N010 22R
R26 N012 N011 22R
C15 N011 0 10n
C16 N012 0 10n
C17 N001 0 10n
R27 N001 N012 22R

* block symbol definitions
.subckt sa612 1 2 3 4 5 6 7 8
Q5 N004 1 N008 0 MRF9411
R1 8 4 1500
R2 8 5 1500
R6 1 N006 2500
R7 N006 2 2500
R11 N008 3 450
R12 7 3 25k
R9 N007 N009 210
V2 N009 3 1.32
R5 8 N007 13k
R10 8 6 18k
R13 N002 3 25k
R15 8 N001 18k
E1 TP1 3 6 3 .4
E2 N003 3 N001 3 .4
Q1 4 N003 N004 0 MRF9411
Q3 4 TP1 N005 0 MRF9411
Q7 8 6 7 0 MRF9411
Q2 5 TP1 N004 0 MRF9411
Q4 5 N003 N005 0 MRF9411
Q6 N005 2 N008 0 MRF9411
Q8 8 N001 N002 0 MRF9411
E3 N006 3 N007 3 1
C1 1 3 2p
C2 2 3 2p
.MODEL MRF9411 NPN
+ IS = 4.558E-16
+ BF = 136
+ NF = 0.9979
+ VAF = 21
+ IKF = 0.7
+ ISE = 3.087E-14
+ NE = 2
+ BR = 42
+ NR = 0.993
+ VAR = 2.9
+ IKR = 0.016
+ ISC = 3.411E-17
+ NC = 1.087
+ RB = 7
+ IRB = 8E-05
+ RBM = 8
+ RE = 0.45
+ RC = 8
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.6E-13
+ VJE = 0.94
+ MJE = 0.42
+ CJC = 4.3E-13
+ VJC = 0.35
+ MJC = 0.21
+ XCJC = 0.44
+ TF = 1.3E-11
+ XTF = 400
+ VTF = 6
+ ITF = 1.5
+ PTF = 47
+ TR = 1E-09
+ FC = 0.98
.ends sa612

.model NPN NPN
.model PNP PNP
.lib C:\users\ivica\My Documents\LTspiceXVII\lib\cmp\standard.bjt
* 1st Mixer
* 1st LO
.tran 0 0.25m 50u
K1 L1 L2 0.95
* RF preamp amplifier for NE602 and other series mixers.
* Output impedance matched for 1000-3000 Ohm input impedance of NE602 ic
* Input impedance in HF band 35-55 Ohm. Amplification cca 30dB
* Circuit created by 9A3ICE, 14 Apr, 2020
.lib LM741.lib
.backanno
.end
