* Z:\home\ivica\Radio\NE602_Ham_Radio\OUT_RF_PREAMP.asc
M1 N002 N012 0 0 IRF530
C1 N012 N011 100n
R1 N009 N012 10k
V1 N009 0 4.15
L1 N001 N002 1µ
V3 N001 0 12V
L2 N003 N002 9µ
C2 N004 N003 100n
L3 N010 0 90µ Rser=0.1r
L4 0 N011 10µ
R2 N008 0 50R
L5 N004 N005 680n
C3 N004 0 180p
L6 N005 N006 680n
C4 N005 0 390p
L7 N006 N007 680n
C5 N006 0 390p
L8 N007 N008 680n
C6 N007 0 390p
C7 N008 0 180p
V2 N010 0 SINE(0 1v 14Meg) AC 1V Rser=50R
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\ivica\My Documents\LTspiceXVII\lib\cmp\standard.mos
* .ac lin 999999 3Meg 30Meg
K1 L1 L2 1
K2 L3 L4 1
.tran 0 22u 20u
.backanno
.end
